US08912210B2
Step D: (5S,6R & 5R,6S)-3-Azido-6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one
To a stirred solution of lithium bis(trimethylsilyl)amide (1.0 M in THF, 36 mL, 36 mmol) in THF (180 mL) at −78° C. was added a cold (−78° C.) solution of (5S,6R & 5R,6S)-6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one (9.68 g, 29.8 mmol) in THF (100+20 mL) dropwise, keeping the internal temperature of the reaction mixture below −65° C. The resulting mixture was stirred at −78° C. for 30 min, then a cold (−78° C.) solution of 2,4,6-triisopropylbenzenesulfonyl azide (Harmon et al. (1973) J. Org. Chem. 38, 11-16) (11.97 g, 38.7 mmol) in THF (100 mL) was added dropwise, keeping the internal temperature of the reaction mixture below −65° C. The reaction mixture was stirred at −78° C. for 45 min, then AcOH (7.8 mL, 140 mmol) was added. The resulting mixture was allowed to warm slowly to ambient temperature and was poured into saturated aqueous sodium bicarbonate (750 mL) and the mixture was extracted with CH2Cl2 (2×750 mL). The combined organic layers were washed with brine, then dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexanes:Et2O—100:0 to 0:100, to give the title compound. MS: m/z=367.1 (M+1).

reactant | lithium bis(trimethylsilyl)amide | 36 mmol, 1.0 M, 36 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one | 29.8 mmol, 9.68 g | CC1C(CCC(N1CC(F)(F)F)=O)C1=C(C(=CC(=C1)F)F)F | C14H13F6NO
reactant | 2,4,6-triisopropylbenzenesulfonyl azide | 38.7 mmol, 11.97 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N=[N+]=[N-] | C15H23N3O2S
reactant | AcOH | 140 mmol, 7.8 mL | CC(=O)O | C2H4O2
reactant | sodium bicarbonate | 750 mL | C([O-])(O)=O.[Na+]
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Azido-6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one | N(=[N+]=[N-])C1C(N(C(C(C1)C1=C(C(=CC(=C1)F)F)F)C)CC(F)(F)F)=O | C14H12F6N4O
